US09193720B2
To a stirred solution of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate (50 mg, 0.107 mmol), 2-(5-methylthiophen-2-yl)ethanol (76 mg, 0.533 mmol) and Ph3P (139 mg, 0.533 mmol) in THF (2 mL) was added DIAD (0.104 mL, 0.533 mmol) at rt. After 18 h, mixture was filtered to remove polymer, concentrated and treated with 1N NaOH (0.854 mL, 0.854 mmol) in MeOH (1 mL) at 75° C. for 16 h. Mixture was then cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(2-(5-methylthiophen-2-yl)ethoxy)phenyl)pyridin-3-yl)acetic acid (13 mg, 0.023 mmol, 21.57% yield). 1H NMR (500 MHz, DMSO-d6) δ 7.20 (d, J=8.8 Hz, 1H), 7.10-6.91 (m, 4H), 6.73 (d, J=3.3 Hz, 1H), 6.63 (br. s., 1H), 5.82 (s, 1H), 4.29-4.07 (m, 3H), 3.26 (br. s., 1H), 3.17 (t, J=6.1 Hz, 1H), 2.43 (s, 3H), 2.38 (s, 3H), 2.15 (br. s., 1H), 2.05 (s, 3H), 1.28 (br. s., 2H), 1.17 (d, J=16.5 Hz, 1H), 1.11 (s, 9H), 1.07-0.94 (m, 2H), 0.83 (br. s., 3H), 0.60 (br. s., 3H). LCMS (M+H)=565.3.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.107 mmol, 50 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)O)C)C | C28H40N2O4
reactant | 2-(5-methylthiophen-2-yl)ethanol | 0.533 mmol, 76 mg | CC1=CC=C(S1)CCO | C7H10OS
reactant | Ph3P | 0.533 mmol, 139 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.533 mmol, 0.104 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | NaOH | 0.854 mmol, 1N, 0.854 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(2-(5-methylthiophen-2-yl)ethoxy)phenyl)pyridin-3-yl)acetic acid | 0.023 mmol, 13 mg, 21.57% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC=1SC(=CC1)C)C)C | C33H44N2O4S
